US08865736B2
2-(3-Carbamoyl-2,4-difluoro-phenoxymethyl)-4-(4-methoxy-phenyl)-thiazole-5-carboxylic acid methyl ester
To a solution of 2-Bromomethyl-4-(4-methoxy-phenyl)-thiazole-5-carboxylic acid methyl ester (0.05 g, 0.14 mmol) in 2 ml of anhydrous DMF was added 2,6-Difluoro-3-hydroxy-benzamide (0.025 g, 0.14 mmol) and potassium carbonate (0.07 g, 0.50 mmol). The reaction mixture was stirred at 25° C. for 24 h under nitrogen atmosphere. The reaction mixture was evaporated to dryness under reduced pressure and the residue was purified by column chromatography on silica (60-120 M) using ethyl acetate/hexane (50:50) as the eluent to provide the title compound as white solid (0.025 g, 40%). 1H NMR (DMSO-d6, 400 MHz): δ 3.76 (s, 3H), 3.81 (s, 3H), 5.60 (s, 2H), 7.01 (d, J=8.40 Hz, 2H), 7.12 (m, 1H), 7.41 (m, 1H), 7.74 (d, J=8.40 Hz, 2H), 7.90 (br s, 1H) and 8.18 (br s, 1H). MS ES+ (435.06), HPLC (method I) Rt=15.86 min.

reactant | 2-Bromomethyl-4-(4-methoxy-phenyl)-thiazole-5-carboxylic acid methyl ester | 0.14 mmol, 0.05 g | COC(=O)C1=C(N=C(S1)CBr)C1=CC=C(C=C1)OC | C13H12BrNO3S
reactant | 2,6-Difluoro-3-hydroxy-benzamide | 0.14 mmol, 0.025 g | FC1=C(C(=O)N)C(=CC=C1O)F | C7H5F2NO2
reactant | potassium carbonate | 0.50 mmol, 0.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-(3-Carbamoyl-2,4-difluoro-phenoxymethyl)-4-(4-methoxy-phenyl)-thiazole-5-carboxylic acid methyl ester | 0.025 g, 40% | COC(=O)C1=C(N=C(S1)COC1=C(C(=C(C=C1)F)C(N)=O)F)C1=CC=C(C=C1)OC | C20H16F2N2O5S
